US07482341B2
3-Chloro-2-methyl-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-ylamine (0.08 g) and 3-chloro-2-methyl-benzenesulfonyl chloride (0.074 g) as an off-white solid (0.113 g). MS (ESI−): 455.2 ([M−H]−).

reactant | 6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-ylamine | 0.08 g | FC(C1=CC=C(OCC2=CC=CC(=N2)N)C=C1)(F)F | C13H11F3N2O
reactant | 3-chloro-2-methyl-benzenesulfonyl chloride | 0.074 g | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-2-methyl-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC1=NC(=CC=C1)COC1=CC=C(C=C1)C(F)(F)F)C | C20H16ClF3N2O3S
